US03987091
Step 4. Preparation of N-[4-(2-Tetrahydropyranyloxy)nonyl]acetamide
To a stirred, ice cold solution of 4-(2-tetrahydropyranyloxy)nonylamine (7.29 g., 0.03 mole) in pyridine (40 ml.) is added acetic anhydride (3.06 g., 0.03 mole) at such a rate as to maintain the reaction temperature at 5°-10°C. The reaction is then allowed to stand at room temperature for 6 hours, poured into ice water (200 ml.) and extracted with ether (2 × 100 ml.). The ether is extracted with ice cold 5% hydrochloric acid (2 × 20 ml.), washed with brine (2 × 25 ml.), then dried over sodium sulfate. Evaporation in vacuo affords the subject compound as a pale yellow oil.

reactant | 4-(2-tetrahydropyranyloxy)nonylamine | 0.03 mole, 7.29 g | O1C(CCCC1)OC(CCCN)CCCCC | C14H29NO2
reactant | acetic anhydride | 0.03 mole, 3.06 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(2-Tetrahydropyranyloxy)nonyl]acetamide | O1C(CCCC1)OC(CCCNC(C)=O)CCCCC | C16H31NO3
